Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
codeine
 
Attending: ___.
 
Chief Complaint:
CC:  ___ 
 
Major ___ or Invasive Procedure:
ERCP with sphincterotomy and stent placement ___
 
History of Present Illness:
This is an ___ year old female with past medical history of
dementia, peripheral neuropathy, several months of progressive
poor appetite and fatigue, with several weeks of acutely
worsening fatigue, followed by yellowing of the skin and
darkening of the urine, presenting for further workup. Per 
report
from daughter, patient has had chronic worsening fatigue and 
poor
appetite, with related weight loss since ___. Over the last
week leading up to this admission, patient's symptoms  had
worsened, sleeping 18 hours a day, eating minimal amounts.  When
daughter (a ___ took the patient to her PCP
___ 1 day prior to admission, she noticed yellowing of
her skin.  Workup at PCP was notable for elevated LFTs, 
prompting
ED referral. 

In the ___ ED, initial vitals were: 97.6 74 138/62 16 99%RA.
Labs were notable for K 4.0, Cr 0.7; ALT 266, ALT 217, AP 321,
Tbili 8.7.  RUQUS showed "Severe intra and extrahepatic biliary
dilatation".  CT with "Massive intrahepatic and extrahepatic
biliary dilatation with main pancreatic ductal dilatation which
abruptly cutoff distally".  Patient was given 1L LR and admitted
to the floor.  

On arrival to the floor, patient confirmed some of above 
history,
but was unable to recall specific details.  Majority of recent
and past medical history was obtained from daughter.  Patient 
and
daughter denied recent fevers, chills or abdominal pain.  Full 
10
point review of systems positive where noted, otherwise 
negative.

 
Past Medical History:
Dementia 
Hypertension
Osteoporosis complicated by prior lumbar kyphoplasty 
Peripheral neuropathy
Depression 
Shingles with residual R eye deficits

PAST SURGICAL HISTORY
Lumbar kyphoplasty

 
Social History:
___
Family History:
Denies any history of cancer in her family.  Has a healthy
daughter and grandson.  
 
Physical Exam:
VS: 98.0 PO 137 / 83 64 18 97 RA 
Gen - sitting up in bed, comfortable, +jaundiced
Eyes - EOMI, decreased pupillary constriction to light in R eye
ENT - OP clear, MMM
Heart - RRR no mrg
Lungs - CTA bilaterally
Abd - soft nontender; negative murphys sign; no 
rebound/guarding;
normal bowel sounds 
Ext - no edema
Skin - +jaundice
Vasc - 2+ DP/radial pulses
Neuro - AOx2-3 (full name, "hospital" but could not recall 
which,
___, moving all extremities
Psych - appropriate  

Exam on discharge:
___ 0315 Temp: 97.4 PO BP: 151/76 L Lying HR: 58 RR:
18 O2 sat: 98% O2 delivery: Ra 
GENERAL: Alert and in no apparent distress, answers 
appropriately
EYES: +scleral icterus, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric
PSYCH: pleasant, appropriate affect

 
Pertinent Results:
Labs: 

___ 12:50PM BLOOD WBC-5.1 RBC-4.42 Hgb-13.7 Hct-40.0 MCV-91 
MCH-31.0 MCHC-34.3 RDW-14.6 RDWSD-48.7* Plt ___
___ 06:58AM BLOOD WBC-6.7 RBC-4.04 Hgb-12.5 Hct-36.2 MCV-90 
MCH-30.9 MCHC-34.5 RDW-14.2 RDWSD-46.5* Plt ___
___ 12:50PM BLOOD Glucose-121* UreaN-13 Creat-0.7 Na-140 
K-4.0 Cl-102 HCO3-24 AnGap-14
___ 12:50PM BLOOD ALT-266* AST-217* AlkPhos-321* 
TotBili-8.7*
___ 06:58AM BLOOD ALT-218* AST-146* AlkPhos-281* 
TotBili-4.5*

MICRO:
___ - Bcx - NGTD

Time Taken Not Noted     Log-In Date/Time: ___ 3:40 pm
      URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

LIVER OR GALLBLADDER US  - wet read 
Severe intra and extrahepatic biliary dilatation. Common bile
duct measures up to 26 mm. Gallbladder sludge without evidence 
of
acute cholecystitis 

CT ABD & PELVIS WITH CO - wet read
1. Massive intrahepatic and extrahepatic biliary dilatation with
main pancreatic ductal dilatation which abruptly cutoff 
distally.
These findings raise a concern for main duct IPMN with malignant
transformation and invasion into the common bile duct. MRCP/ERCP
is recommended for further evaluation. 
2. No obvious pancreatic or duodenal mass identified. 
3. Diverticulosis without evidence of diverticulitis. 

ERCP: ___
Cholangiogram: Contrast was injected into the biliary tree. A 
1cm
long, malignant appearing stricture at the higher CBD was noted.
The CHD and IHD were massively dilated.
Sphincterotomy: A biliary sphincterotomy was successfully
performed over an exixting guide wire. There was mild oozing
after sphincterotomy. Hemostasis was ensured at the end of the
procedure.
Biliary Brushings: Cytology brushings were performed 
successfully
of the biliary stricture
Stent placement: A 10mm, 60mm straight metal fully covered
biliary stent was placed successfully. A metal stent was placed
given mild oozing at the sphincterotomy site and the low
likelihood that the patient will be a surgical candidate.

 
Brief Hospital Course:
This is an ___ year old past medical history of dementia, recent 
weight loss and fatigue, presenting with jaundice, significant 
LFT abnormalities, imaging concerning for biliary obstruction

# Biliary obstruction secondary to 
# Concern for pancreatic malignancy
# Abnormal LFTs
Presented with painless jaundice, elevated LFTs and imaging 
notable for significant biliary dilation with concern for 
pancreatic mass invading into common bile duct. The patient 
underwent an ERCP with finding of 1cm stricture at the CBD with 
external
compression. No invasion. Sphincterotomy was performed and stent 
was placed. The patient was monitored overnight with bowel rest 
and IV fluids. LFTs trended down- Bilirubin was 4.5 on 
discharge. The morning following her ERCP the patient had no 
abdominal pain. Her diet was advanced. She was seen by ___ 
surgery who recommended CTA pancreas protocol which can be 
completed as an outpatient. She should follow up with Dr. 
___ in ___ pancreas. She will be contacted with results of 
her biopsy and outpatient follow up will be arranged.

# Dementia
High risk for falls and delirium. Remained at her baseline 
throughout short hospitalization. .

# Acute severe protein calorie malnutrition
The patient was evaluated by nutrition. She should have ensure 
supplements with meals.

# Osteoporosis 
Continued vitamin D

Transitional issues:
- patient with findings concerning for malignancy- the patient 
will be contacted with biopsy results and outpatient follow up 
will be arranged
- should have CTA pancreas protocol at follow up
- CA ___, CEA pending on discharge

Contact - Patient, daughter ___, ___ 
Code status - Full code, warrants ongoing discussion pending 
biopsy results
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Vitamin E 400 UNIT PO DAILY 
2. Vitamin D 1000 UNIT PO DAILY 
3. Ascorbic Acid ___ mg PO DAILY 
4. biotin 5 mg oral DAILY 
5. Cyanocobalamin 50 mcg PO DAILY 
6. Glucosamine (glucosamine sulfate) 500 mg oral DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Biliary obstruction, concern for malignancy
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Ms. ___,

It was a pleasure taking care of you during your recent 
admission to ___. You were admitted with jaundice and found to 
have a blockage in your bile ducts which is concerning for 
cancer. You had a procedure called an ERCP and a stent was 
placed in your bile duct to resolve the blockage.  You also had 
a biopsy and these results are pending. If you have abdominal 
pain, fever, increased yellowing of skin, gastrointestinal 
bleeding, please call the advanced endoscopy fellow on call: 
___ (pager ___. Pathology results will be sent to 
your referring doctor. Please call Dr. ___ office at 
___ in 10 days if you have not received results. 

We wish you the best,
Your ___ Care team
 
Followup Instructions:
___